US04039676
The starting material is prepared as follows: To the solution of 20 g of 1,4-benzodioxan-2-yl-acetonitrile in 200 ml of benzene is added dropwise 71 ml of a 1.6 N solution of diisobutyl aluminum hydride in benzene while stirring at 10°. After 6 hours 50 ml of methanol are added, followed by 200 ml of water. The organic layer is separated, dried and evaporated, to yield the 1,4-benzodioxan-2-yl-acetaldehyde.

reactant | 1,4-benzodioxan-2-yl-acetonitrile | 20 g | O1C(COC2=C1C=CC=C2)CC#N | C10H9NO2
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 50 ml | CO | CH4O
reactant | water | 200 ml | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1,4-benzodioxan-2-yl-acetaldehyde | O1C(COC2=C1C=CC=C2)CC=O | C10H10O3
